US07932389B2
Step b) Formation of rel-(2S,3aS,7aR)-6-[2-(ethylamino)-2-oxoethyl]-1-[(4-methoxyphenyl)sulfonyl]octahydro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (Compound of Formula IIa wherein R11 is H; R13 is —SO2-4-methoxyphenyl; R3, R4, R5, R6 are H and R14 is 2-(ethylamino)-2-oxoethyl)
A solution of ethyl rel-(2S,3aS,7aR)-6-[2-(ethylamino)-2-oxoethyl]-1-[(4-methoxyphenyl)sulfonyl]octahydro-1H-pyrrolo[2,3-c]pyridine-2-carboxylate under step a) (62 mg, 0.13 mmol) was made in 1:1 THF:H2O (20 vols). Lithium hydroxide monohydrate (65.5 mg, 1.56 mmol) was added and the reaction stirred at room temperature for 18 hours. The THF was removed in vacuo, and the aqueous layer extracted with EtOAc (3×10 mL). The organic extracts were collected, dried over magnesium sulfate and filtered. The solvent was then removed in vacuo, before being placed on a high vacuum line for 2 hours. The product was used in the next step with no further purification.

reactant | ethyl rel-(2S,3aS,7aR)-6-[2-(ethylamino)-2-oxoethyl]-1-[(4-methoxyphenyl)sulfonyl]octahydro-1H-pyrrolo[2,3-c]pyridine-2-carboxylate | C(C)NC(CN1C[C@H]2[C@@H](CC1)C[C@H](N2S(=O)(=O)C2=CC=C(C=C2)OC)C(=O)OCC)=O | C21H31N3O6S
reactant | THF | C1CCOC1 | C4H8O
reactant | Lithium hydroxide monohydrate | 1.56 mmol, 65.5 mg | O.[OH-].[Li+]
solvent | H2O | O | H2O
product | rel-(2S,3aS,7aR)-6-[2-(ethylamino)-2-oxoethyl]-1-[(4-methoxyphenyl)sulfonyl]octahydro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid | C(C)NC(CN1C[C@H]2[C@@H](CC1)C[C@H](N2S(=O)(=O)C2=CC=C(C=C2)OC)C(=O)O)=O | C19H27N3O6S
